US04587341
B. 6-Bromo-4-methyl-2-(1H)-quinolinone
A mixture of 3.00 g (0.0117 moles) of N-(4-bromophenyl)-3-oxobutyramide and 6 ml concentrated sulfuric acid was stirred and heated to 95°-100° C. (H2O bath) for 11/2 hours. The resulting solution was poured onto an ice/H2O mixture to yield a white crystalline product. The crystals were collected and taken up in 200 ml absolute ethanol. The volume was reduced to 150 ml followed by chilling; crystals were isolated (0.71 g 25.6%), mp 292°-299° C. Anal. Calcd. for C10H8BrNO: C, 50.45; H, 3.39; N, 5.88; Br, 33.56. Found: C, 50.28; H, 3.44; N, 5.83; Br, 33.68. A TLC of the product on silica showed Rf 0.18 with ethyl acetate eluent.

reactant | N-(4-bromophenyl)-3-oxobutyramide | 0.0117 moles, 3.00 g | BrC1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10BrNO2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-4-methyl-2-(1H)-quinolinone | BrC=1C=C2C(=CC(NC2=CC1)=O)C | C10H8BrNO
